US07750003B2
tert-Butyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-yl]-N-[(2-methylpropan-2-yl)oxycarbonyl]carbamate
A mixture of tert-butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(5-tributylstannyl-1,3-thiazol-2-yl)carbamate (3 g, 5.1 mmol), 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine (1 g, 3.2 mmol) and palladium tetrakis (triphenylphosphine) (50 mg), in toluene (10 mL) was heated at 105° C. for 2 hours under nitrogen. The mixture was chromatographed on silica to give the desired material (1.7 g).

reactant | tert-butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(5-tributylstannyl-1,3-thiazol-2-yl)carbamate | 5.1 mmol, 3 g | CC(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C=1SC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 3.2 mmol, 1 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]-1,3-thiazol-2-yl]-N-[(2-methylpropan-2-yl)oxycarbonyl]carbamate | 1.7 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C1=CN=C(S1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C24H35N5O7S2
